* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Buffer\buffer.asc
D1 N002 N003 1N4148
R1 V+ N002 1k
R2 N005 V- 1k
XU1 N001 N004 N003 opamp Aol=100K GBW=10Meg
V1 N004 0 SINE(0 1 1Meg)
Q1 V+ N002 N001 0 2N2222
Q2 V- N005 N001 0 2N2907
V2 V+ 0 18
V3 0 V- 18
D2 N003 N005 1N4148
.model D D
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 5u 0 1u
.model D D(Ron=1m Roff=10Meg Vfwd=0.7 Vrev=100)
.lib opamp.sub
.backanno
.end
